US06355365B1
Next, 3.21 g (20 mmol) of the thus synthesized 2-phenylthiophene was dissolved into 20 mL of methanol, and then to this solution was added a solution wherein 3.92 g (22 mmol) of N-bromosuccinimide (Wako Pure Chemicals Industries, Ltd.) was dissolved into 40 mL of methanol, to produce a white precipitation of 2-phenyl-5-bromothiophene immediately. This reaction solution was put into a refrigerator to ensure the production of the precipitation. This precipitation was filtered and then was sufficiently washed with a great deal of a mixture solution of equivalent amounts of water and methanol. The resultant was dried one day and night to obtain a white crystal (2.4 g) of 2-phenyl-5-bromothiophene.

reactant | 2-phenylthiophene | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | N-bromosuccinimide | 22 mmol, 3.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 2-phenyl-5-bromothiophene | 2.4 g | C1(=CC=CC=C1)C=1SC(=CC1)Br | C10H7BrS
